US04889936
3-(p-Chlorophenyl)thiazol[3,2-a]benzimidazol-2-acetic acid
A mixture of 100 g of 3-(p-Chlorophenyl)-2,3,-dihydro-3-hydroxythiazolo[3,2-a]benzimidazol-2-acetic acid, hydrobromide and 200 ml of methanesulfonic acid was stirred overnight in a 500 ml round bottom flask. Thin layer chromatography on silica plates (solvent ethyl acetate/acetic acid) indicated rapid formation of an intermediate. After 20 hours at room temperature thin layer chromatography (silica plates, ethyl) acetate/acetic acid) showed the presence of a single component. The mixture was poured into water and the resulting crystals removed by filtration. The crystalline product was suspended in 5 volumes of hot water for 1/2 hour, filtered and the procedure repeated. After a final aqueous wash the material was dried in vacuo to yield the title compound (75 g, 91%) m.p. 242°-3° C.

reactant | 3-(p-Chlorophenyl)-2,3,-dihydro-3-hydroxythiazolo[3,2-a]benzimidazol-2-acetic acid, hydrobromide | 100 g | Br.ClC1=CC=C(C=C1)C1(C(SC2=NC3=C(N21)C=CC=C3)CC(=O)O)O
reactant | methanesulfonic acid | 200 ml | CS(=O)(=O)O | CH4O3S
reactant | ethyl acetate acetic acid | C(C)(=O)OCC.C(C)(=O)O
reactant | acetate acetic acid | C(C)(=O)[O-].C(C)(=O)O
solvent | water | O | H2O
product | 3-(p-Chlorophenyl)thiazol[3,2-a]benzimidazol-2-acetic acid | 75 g, 91% | ClC1=CC=C(C=C1)C1=C(SC2=NC3=C(N21)C=CC=C3)CC(=O)O | C17H11ClN2O2S
